US08003800B2
A suspension of rac-3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazole (382 mg, 0.959 mmol) in 7 N NH3 in MeOH (10 mL) and THF (5 mL) is stirred at 60° C. for 15 h. The mixture is diluted with 1M aq. NaOH (30 mL) and extracted with DCM (4×75 mL). The combined organic extracts are dried (Na2SO4), filtered and evaporated to give rac-1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (419 mg) as a pale yellow solid; LC-MS: tR=0.90 min, [M+1]=416.42.

reactant | rac-3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazole | 0.959 mmol, 382 mg | CC=1C=C(C=C(C1OCC1OC1)C)C1=NOC(=N1)C=1SC=C(C1C)CC(C)C | C22H26N2O3S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | NH3 | 7 N | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
solvent | NaOH | 1M, 30 mL | [OH-].[Na+]
product | rac-1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 419 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C=1SC=C(C1C)CC(C)C)C)O | C22H29N3O3S
